US05807896
A solution of 1.8 g of methyl 2-methyl-4-(4-methylphenyl) -5-methylsulphonylbenzoate [obtainable by reacting methyl 3-methylsulphonyl-4-bromo-6-methylbenzoate with tolylboronic acid] and 1.5 g of guanidine in 50 ml of methanol is boiled for five hours and the solvent is then removed. The residue is treated with water and the crop of crystals which remains is filtered off with suction and treated with dilute sodium hydroxide solution. The solid residue is filtered off and recrystallized from ethanol, and N-diaminomethylene-2-methyl-4-(4-methylphenyl)-5-methylsulphonylbenzamide is obtained, m.p. 222°-224°.

reactant | methyl 2-methyl-4-(4-methylphenyl) -5-methylsulphonylbenzoate | 1.8 g | CC1=C(C(=O)OC)C=C(C(=C1)C1=CC=C(C=C1)C)S(=O)(=O)C | C17H18O4S
reactant | guanidine | 1.5 g | NC(=N)N | CH5N3
solvent | methanol | 50 ml | CO | CH4O
product | N-diaminomethylene-2-methyl-4-(4-methylphenyl)-5-methylsulphonylbenzamide | NC(=NC(C1=C(C=C(C(=C1)S(=O)(=O)C)C1=CC=C(C=C1)C)C)=O)N | C17H19N3O3S
